US08222248B2
To a solution of (4-formyl-3,5-dimethyl-phenoxy)-acetonitrile (120 mg) in DMF (3 mL) were added sodium azide (62 mg) and ammonium chloride (51 mg). The reaction mixture was heated at 100° C. for 1 h. The mixture was then diluted by water and the whole was loaded onto a cartridge that contained C18 silica gel (reverse phase). Wash-to-waste (10 mL water) was followed by elute-to-collect (10 mL, acetonitrile) and, after evaporation of volatiles, 2,6-dimethyl-4-(1H-tetrazol-5-yl-methoxy)-benzaldehyde was obtained.

reactant | (4-formyl-3,5-dimethyl-phenoxy)-acetonitrile | 120 mg | C(=O)C1=C(C=C(OCC#N)C=C1C)C | C11H11NO2
reactant | sodium azide | 62 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 51 mg | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2,6-dimethyl-4-(1H-tetrazol-5-yl-methoxy)-benzaldehyde | CC1=C(C=O)C(=CC(=C1)OCC1=NN=NN1)C | C11H12N4O2
